* 3.3V regulator selector/reference path model — RB-011 v4 (SIMPLIFIED)
* BENCH VALIDATION FOCUS: Interpret real node voltages from probe data
*
* CORE INSIGHT from probe data (2026-08-12):
*   - D5K voltage is nearly CONSTANT (3.303V → 3.302V) when R25 is removed
*   - This means D5K is NOT floating; it's held by the feedback divider
*   - The regulator OUTPUT is what changes (3.335V → 3.451V)
*   - Implication: VOUT varies to maintain V_FB ≈ 1.23V
*
* FEEDBACK DIVIDER MATH:
*   FB = D5K × R7 / (R23 + R14 + R13 + R7)
*   FB = D5K × 1000 / (0 + 1000 + 680 + 1000) = D5K × 0.378
*
*   At equilibrium: V_FB = 1.23V
*   Therefore:      D5K = 1.23V / 0.378 = 3.256V nominal
*
*   Bench measured D5K = 3.303V → V_FB = 3.303 × 0.378 = 1.248V (close!)
*   Error: (1.248 - 1.23) / 1.23 = 1.5% (within component tolerance)
*
* THIS MODEL: Directly sweep VOUT and calculate resulting D5K, U6 outputs, and V_FB
*             No need for transient loop closure — just calculate node voltages

.title RB-011 v4: Feedback divider steady-state analysis

* Voltage sources
VOUT V_OUT 0 DC 3.3
VBOOT VBOOT 0 DC 5.0

* ============================================================
* U6A: unity-gain buffer of V_OUT with output impedance
* Real LMV358 outputs ~3.55V ceiling with ~75Ω output Z
* ============================================================
EU6A U6A_IDEAL 0 V_OUT 0 1
RU6A_OUT U6A_IDEAL U6A_OUT 75
* When D5K < U6A_IDEAL, back-drive current flows, clamping U6A_OUT

* ============================================================
* D5: BAT54C dual Schottky, common cathode
* A1 ← U6A_OUT
* A2 ← U6B_OUT  
* K  → D5K
* ============================================================
.model DBAT54 D(Is=2n N=1.08 Rs=0.5 Bv=30 Eg=0.69)
DA1 U6A_OUT D5K DBAT54
DA2 U6B_OUT D5K DBAT54

* ============================================================
* U6B: unity-gain buffer of R33/R34 divider (local reference)
* ============================================================
R33 V_OUT U6B_REF 100
R34 U6B_REF 0 33000
EU6B U6B_IDEAL 0 U6B_REF 0 1
RU6B_OUT U6B_IDEAL U6B_OUT 75

* ============================================================
* R25: DC return path from V_OUT to D5K
* Case A: 10Ω installed
* Case B: Comment out and use R25_OPEN instead
* ============================================================
R25 V_OUT D5K 10
* R25_OPEN V_OUT D5K 1e12

* ============================================================
* LM2596 feedback divider
* ============================================================
R23 D5K FB_INT 0.001
R14 FB_INT FB_MID 1000
R13 FB_MID FB 680
R7 FB 0 1000
* R15 NOT POPULATED (open)
* R15_OPEN FB 0 1e12

* Light load
RLOAD V_OUT 0 100k

* ============================================================
* Analysis: Transient to find steady state
* ============================================================
.control
set hcopydevtype=postscript
set color0=white
set color1=black

echo === RB-011 v4: Direct steady-state analysis ===
echo Case A: R25 = 10 ohm, VOUT sweep 2.5 to 5V

* Perform DC sweep to find operating point at each VOUT
dc VOUT 2.5 5.0 0.01

* Extract key nodes at V_OUT = 3.335V (near Case A setpoint)
meas dc VOUT_A find v(v_out) when v(fb)=1.23 rise=first
meas dc D5K_A find v(d5k) when v(fb)=1.23 rise=first
meas dc U6A_A find v(u6a_out) when v(fb)=1.23 rise=first
meas dc U6B_A find v(u6b_out) when v(fb)=1.23 rise=first

echo
echo === CASE A RESULTS (V_FB ≈ 1.23V) ===
print VOUT_A D5K_A U6A_A U6B_A
echo
echo Bench measured (2026-08-12):
echo   V_OUT   = 3.335V
echo   D5K     = 3.3032V
echo   U6A_OUT = 3.151V
echo   U6B_OUT = 3.3943V
echo   V_FB    = 1.248V (calculated from D5K × 0.378)
echo
echo Model prediction vs bench:
print v(v_out)[83] v(d5k)[83] v(u6a_out)[83] v(u6b_out)[83] v(fb)[83]

* Write sweep data
set wr_singlescale
set wr_vecnames
option numdgt=7
wrdata 3v3_sel_case_a_v4.csv v(v_out) v(d5k) v(u6a_out) v(u6b_out) v(fb) v(u6a_ideal) v(u6b_ref)

quit
.endc

.end
